US06340751B1
Preparation of 3-{(2R)-2-[(3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-(3aS-cis)-3,3a,8,8a-tetrahydro-2H-indeno[1,2-d]oxazol-2-one
Under a nitrogen atmosphere, 231 mg (1.0 mmol) of 3-propionyl-(3aS-cis)-3,3a,8,8a-tetrahydro-2H-indeno[1,2-d]oxazol-2-one was charged in a 30-ml three-necked flask to dissolve it in 2 ml of tetrahydrofuran. To the resulting solution, 2.75 ml (2.2 mmol) of a tetrahydrofuran solution (0.8M) of t-butylmagnesium chloride was slowly added dropwise at room temperature. After the resulting mixture was allowed to react for 20 minutes under the same conditions, the reaction mixture was cooled to 5° C. and added with 2 ml of a tetrahydrofuran solution of 287 mg (1.0 mmol) of (3R,4R)-4-acetoxy-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one at the same temperature. After stirring for 10 minutes, 10 ml of ethyl acetate was added to the reaction mixture, followed by the dropwise addition of 2 ml of a 10% aqueous solution of citric acid. After separation, the organic layer was washed with 2 ml of a saturated aqueous solution of sodium bicarbonate and 2 ml of a saturated aqueous solution of sodium cloride, dried over anhydrous magnesium sulfate and distilled to remove the solvent. The residue was purified by column chromatography, whereby 308 mg (0.67 mmol) of a condensation product was obtained (yield: 67%, β:α=95:5).

reactant | 3-propionyl-(3aS-cis)-3,3a,8,8a-tetrahydro-2H-indeno[1,2-d]oxazol-2-one | 1.0 mmol, 231 mg | C(CC)(=O)N1C(O[C@H]2[C@@H]1C=1C=CC=CC1C2)=O | C13H13NO3
reactant | t-butylmagnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | (3R,4R)-4-acetoxy-3-[(R)-1-tert-butyldimethylsilyloxyethyl]azetidin-2-one | 1.0 mmol, 287 mg | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.2 mmol, 0.8M, 2.75 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 3-{(2R)-2-[(3S,4R)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-2-oxoazetidin-4-yl]propionyl}-(3aS-cis)-3,3a,8,8a-tetrahydro-2H-indeno[1,2-d]oxazol-2-one | 0.67 mmol, 308 mg, yield: 67% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@H](C(=O)N1C(O[C@H]2[C@@H]1C=1C=CC=CC1C2)=O)C)=O | C24H34N2O5Si
